US07531662B2
A solution of chloroacetyl chloride (1.6 mL, 20 mmol) in anhydrous diethyl ether (10 mL) was added dropwise within 5 min to a solution of 1-adamantanamine (3.0 g, 20 mmol) and pyridine (1.63 mL, 20 mmol) in anhydrous diethyl ether (40 mL) at 0° C. The yellow suspension was stirred for 1 h at that temperature. The precipitate was removed by filtration and washed by diethyl ether (10 mL). The combined organic solution was washed with HCl (2 N, 2×15 mL), followed by sat. NaHCO3 (15 mL), sat. NaCl (15 mL) solutions and dried with Na2SO4. The solvent was removed at reduced pressure and the residue was recrystallized from diethyl ether-hexanes to afford N-(1-adamantyl)chloroacetamide (1.551 g, 34%) as a yellow solid.

reactant | chloroacetyl chloride | 20 mmol, 1.6 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-adamantanamine | 20 mmol, 3.0 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | pyridine | 20 mmol, 1.63 mL | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | N-(1-adamantyl)chloroacetamide | 1.551 g, 34% | C12(CC3CC(CC(C1)C3)C2)NC(CCl)=O | C12H18ClNO
